US08710223B2
A mixture of 2-chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine hydrochloride (416 mg, 1.29 mmol, 1 equiv), 4-cyclopropyl-2-fluoro-5-(5-methyl-1H-tetrazol-1-yl)benzenamine (300 mg, 1.29 mmol, 1 equiv), and PTSA monohydrate (196 mg, 1.03 mmol, 0.8 equiv) in IPA (13 mL) were heated to 70° C. for 6 days. After cooling to ambient temperature, the crude mixture was concentrated to dryness and taken in water, EtOAc, and 1N NaOH. The layers were separated. The organic layer was washed with 1N NaOH 2×, dried over Na2SO4, filtered, and concentrated to dryness. The crude product was purified by trituration from EtOAc:hexane to give compound N2-(4-cyclopropyl-2-fluoro-5-(5-methyl-1H-tetrazol-1-yl)phenyl)-5-fluoro-N4-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidine-2,4-diamine (361 mg, 58%) as a solid.

reactant | 2-chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine hydrochloride | 1.29 mmol, 416 mg, 1 equiv | Cl.ClC1=NC=C(C(=N1)NC1CC(NC(C1)(C)C)(C)C)F
reactant | 4-cyclopropyl-2-fluoro-5-(5-methyl-1H-tetrazol-1-yl)benzenamine | 1.29 mmol, 300 mg, 1 equiv | C1(CC1)C1=CC(=C(C=C1N1N=NN=C1C)N)F | C11H12FN5
solvent | IPA | 13 mL | CC(C)O | C3H8O
product | N2-(4-cyclopropyl-2-fluoro-5-(5-methyl-1H-tetrazol-1-yl)phenyl)-5-fluoro-N4-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidine-2,4-diamine | 361 mg, 58% | C1(CC1)C1=CC(=C(C=C1N1N=NN=C1C)NC1=NC=C(C(=N1)NC1CC(NC(C1)(C)C)(C)C)F)F | C24H31F2N9
